US08809371B2
A methanol (15 ml) solution containing 1-cyclopropyl-5-nitro-1H-imidazole (60 mg) was prepared and subjected to hydrogenation reaction (80° C.; 50 bar; flow rate: 2 ml/min; 10% Pd/C) using H-cube™. Thereafter, the solvent was distilled away under reduced pressure, and a purple solid of 1-cyclopropyl-1H-imidazol-5-amine (20 mg) was thus obtained.

reactant | 1-cyclopropyl-5-nitro-1H-imidazole | 60 mg | C1(CC1)N1C=NC=C1[N+](=O)[O-] | C6H7N3O2
catalyst | Pd/C | [Pd] | Pd
solvent | methanol | 15 ml | CO | CH4O
product | 1-cyclopropyl-1H-imidazol-5-amine | 20 mg | C1(CC1)N1C=NC=C1N | C6H9N3
